US09388173B2
Step 2: 1-(3,4-Dihydroisoquinolin-2(1H)-yl)-3-((4-(1-methyl-1H-benzo[d]imidazol-6-yl)pyridin-2-yl)amino)propan-2-ol
A mixture of 1-((4-bromopyridin-2-yl)amino)-3-(3,4-dihydroisoquinolin-2(1H)-yl)propan-2-ol (170 mg, 0.47 mmol), 1-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazole (177 mg, 0.68 mmol), Pd(dppf)Cl2 (83 mg, 0.11 mmol) and Na2CO3 (151 mg, 1.43 mmol) in dioxane/H2O (5/2 mL) was stirred at 100° C. under N2 for 2 h. Upon completion, water was added to the mixture which was extracted with DCM. The organic layer was concentrated and purified by pre-HPLC to give the desired title compound (30 mg, yield 16%). 1H NMR (400 MHz, MeOD): δ 8.41 (s, 1H), 7.90 (d, J=6.8 Hz, 2H), 7.78 (d, J=8.0 Hz, 1H), 7.64 (d, J=8.0 Hz, 1H), 7.33-7.19 (m, 4H), 7.04 (d, J=5.6 Hz, 2H), 4.46 (s, 2H), 4.35 (br.s, 1H), 3.98 (s, 3H), 3.66-3.53 (m, 4H), 3.33-3.13 (m, 4H). LCMS (m/z): 414.2 (M+1).

reactant | 1-((4-bromopyridin-2-yl)amino)-3-(3,4-dihydroisoquinolin-2(1H)-yl)propan-2-ol | 0.47 mmol, 170 mg | BrC1=CC(=NC=C1)NCC(CN1CC2=CC=CC=C2CC1)O | C17H20BrN3O
reactant | 1-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazole | 0.68 mmol, 177 mg | CN1C=NC2=C1C=C(C=C2)B2OC(C(O2)(C)C)(C)C | C14H19BN2O2
reactant | Na2CO3 | 1.43 mmol, 151 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | O | H2O
solvent | dioxane H2O | 2 mL | O1CCOCC1.O
catalyst | Pd(dppf)Cl2 | 0.11 mmol, 83 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(3,4-Dihydroisoquinolin-2(1H)-yl)-3-((4-(1-methyl-1H-benzo[d]imidazol-6-yl)pyridin-2-yl)amino)propan-2-ol | 30 mg, yield 16% | C1N(CCC2=CC=CC=C12)CC(CNC1=NC=CC(=C1)C=1C=CC2=C(N(C=N2)C)C1)O | C25H27N5O
